US06825191B2
Step 1: Synthesis of Methyl 1-benzyl-4-nitro-1H-pyrazole-3-carboxylate
10 g (63.7 mmol) of 4-nitro-3-pyrazolecarboxylic acid was dissolved in 100 ml of methanol. 5.7 ml (76.4 mmol) of thionyl chloride was added dropwise to the obtained solution under cooling with ice. The temperature was elevated to room temperature and the obtained mixture was stirred for 2 days. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the solvent was evaporated. The obtained crude product was dissolved in 150 ml of DMF. 9.5 g (68.8 mmol) of potassium carbonate and 7.5 ml (65.0 mmol) of benzyl chloride were added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 4-nitro-3-pyrazolecarboxylic acid | 63.7 mmol, 10 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
reactant | thionyl chloride | 76.4 mmol, 5.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium carbonate | 68.8 mmol, 9.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 65.0 mmol, 7.5 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 100 ml | CO | CH4O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 1-benzyl-4-nitro-1H-pyrazole-3-carboxylate | C(C1=CC=CC=C1)N1N=C(C(=C1)[N+](=O)[O-])C(=O)OC | C12H11N3O4
